US07825114B2
Preparation of Trifluoromethanesulphonic acid 3-cyano-6-cyclopropyl-4-(4-nitro-phenyl)-pyridin-2-yl ester
Reaction of 1.5 g 6-cyclopropyl-4-(4-nitro-phenyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile (5.3 mmol, 1 eq.), and 2.69 ml trifluoromethanesulphonic acid anhydride (16 mmol, 3 eq.) in pure pyridine yielded 1.49 g product (3.6 mmol mmol, 68% yield).

reactant | 6-cyclopropyl-4-(4-nitro-phenyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile | 5.3 mmol, 1.5 g, 1 eq. | C1(CC1)C1=CC(=C(C(N1)=O)C#N)C1=CC=C(C=C1)[N+](=O)[O-] | C15H11N3O3
reactant | trifluoromethanesulphonic acid anhydride | 16 mmol, 2.69 ml, 3 eq. | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Trifluoromethanesulphonic acid 3-cyano-6-cyclopropyl-4-(4-nitro-phenyl)-pyridin-2-yl ester | 3.6 mmol, 1.49 g, 68% yield | C(#N)C=1C(=NC(=CC1C1=CC=C(C=C1)[N+](=O)[O-])C1CC1)OS(=O)(=O)C(F)(F)F | C16H10F3N3O5S
